US07863305B2
A mixture of pyridine-3-carboxaldehyde (2.72 g), propanedioic acid, 1,1-dimethylethyl methyl ester (4.42 g), piperidine (0.173 g) and benzoic acid (0.155 g) in benzene (100 ml) was heated at reflux with removal of water to a Dean-Stark trap for 12 hours. The cooled mixture was washed with bicarbonate solution, concentrated under vacuum and the residue was purified by column chromatography, eluting with ethyl acetate-hexane (3:7) to afford racemic 2-pyridin-3-ylmethylene-malonic acid tert-butyl ester methyl ester as an oil (3.21 g).

reactant | pyridine-3-carboxaldehyde | 2.72 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | propanedioic acid, 1,1-dimethylethyl methyl ester | 4.42 g | C(CC(=O)OC)(=O)OC(C)(C)C | C8H14O4
reactant | piperidine | 0.173 g | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.155 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | racemic 2-pyridin-3-ylmethylene-malonic acid tert-butyl ester methyl ester | 3.21 g | COC(C(C(=O)OC(C)(C)C)=CC=1C=NC=CC1)=O | C14H17NO4
